### PR TITLE
[Merged by Bors] - chore: refactor the vector measure integral by changing the reference measure

### PR DESCRIPTION
**Pull request by sgouezel**
Given a bilinear form `B` on `E x F` to `G`, a function `f` with values in `E` and a vector measure `v` with values in `F`, the integral wrt the vector measure is defined when the function is integrable wrt the measure `(v.transpose B).variation`, which is the minimal condition for the integral to make sense.

I have played a lot recently with integrals for vector measures, and I have realized that assuming this minimal condition creates a lot of complications, for essentially no gain. In this PR, I require the stronger condition that the function is integrable wrt `v.variation`. So, the integrability condition does not depend on `B` any more. This makes for smoother statements and smoother proofs (especially in the forthcoming Fubini theorem). In all standard applications, `B` is an isometry, so `(v.transpose B).variation = v.variation`, and the theory is unchanged.

Note that the new approach does not lose any generality: in the unlikely event one wants to integrate a function which is only integrable wrt `(v.transpose B).variation` for some exotic `B`, then one can integrate with the vector measure `v.transpose B` (which takes values in `E -> G`) and the bilinear form which is the function application, i.e., `E -> (E -> G) -> G`.

Zulip discussion at [#mathlib4 > Refactoring vector measure integral @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Refactoring.20vector.20measure.20integral/near/603283077). Everyone seems to agree the refactor is a good idea.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 1]
```diff
@@ -533,105 +560,102 @@ end VectorMeasure
 
 section cbm
 
-/- `simpNF` complains that this lemma can be proved by `simp`, because the `simp`-generated lemma
-unfolds the abbrev `VectorMeasure.Integrable`. TODO: fix `simp`. See lean4#13958. -/
-@[nolint simpNF, simp]
-lemma Integrable.zero_cbm : μ.Integrable f (0 : E →L[ℝ] F →L[ℝ] G) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean:539]: I can't deprecate these lemmas, because their statements don't even make sense with the new formalism as integrability does not depend on the bilinear form any more.

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 2]
```diff
@@ -533,105 +560,102 @@ end VectorMeasure
...
-    (h : ¬AEStronglyMeasurable f (μ.transpose B).variation) :
+    (h : ¬AEStronglyMeasurable f μ.variation) :
     ∫ᵛ a, f a ∂[B; μ] = 0 :=
   integral_undef <| not_and_of_not_left _ h
 
 lemma integral_indicator₂ {β : Type*} (f : β → X → E) (s : Set β) (b : β) :
     ∫ᵛ y, s.indicator (f · y) b ∂[B; μ] = s.indicator (fun x ↦ ∫ᵛ y, f x y ∂[B; μ]) b := by
   by_cases hb : b ∈ s <;> simp [hb]
 
+theorem continuous_integral : Continuous fun f : X →₁[μ.variation] E => ∫ᵛ a, f a ∂[B; μ] := by
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean:611]: Unless you have a reason we shouldn't:
```suggestion
@[fun_prop]
theorem continuous_integral : Continuous fun f : X →₁[μ.variation] E => ∫ᵛ a, f a ∂[B; μ] := by
```

**Review by j-loreaux — COMMENTED** [review]
The diff here is not nearly as bad as I was expecting. Thanks!

bors d+
